US06057311
Preparation of 1-benzyl-7-ethyl-4-(3,4-dichlorophenyl)carbamyl-2-oxo-2,3,4,5,6,7-hexahydro-1H-1,4-benzodiazonine
The compound was prepared by a similar method to that used in the preparation of example 49 except that 3,4-dichlorophenylisocyanate and 1-benzyl-7-ethyl-2-oxo-2,3,4,5,6,7-hexahydro-1H-1,4-benzodiazonine were used in place of m-tolylisocyanate and 1-tert-butyloxycarbonylmethyl-2-oxo-2,3,4,5,6,7-hexahydro-1H-1,4-benzodiazonine respectively in step j.

reactant | 3,4-dichlorophenylisocyanate | ClC=1C=C(C=CC1Cl)N=C=O | C7H3Cl2NO
reactant | 1-benzyl-7-ethyl-2-oxo-2,3,4,5,6,7-hexahydro-1H-1,4-benzodiazonine | C(C1=CC=CC=C1)N1C(CNCCC(C2=C1C=CC=C2)CC)=O | C20H24N2O
reactant | m-tolylisocyanate | C1(=CC(=CC=C1)N=C=O)C | C8H7NO
reactant | 1-tert-butyloxycarbonylmethyl-2-oxo-2,3,4,5,6,7-hexahydro-1H-1,4-benzodiazonine | C(C)(C)(C)OC(=O)CN1C(CNCCCC2=C1C=CC=C2)=O | C17H24N2O3
product | 1-benzyl-7-ethyl-4-(3,4-dichlorophenyl)carbamyl-2-oxo-2,3,4,5,6,7-hexahydro-1H-1,4-benzodiazonine | C(C1=CC=CC=C1)N1C(CN(CCC(C2=C1C=CC=C2)CC)C(NC2=CC(=C(C=C2)Cl)Cl)=O)=O | C27H27Cl2N3O2
